US08202873B2
Stir together bis(dibenzylideneacetone)palladium(0) (336 mg, 0.585 mmol) and tricyclohexylphosphine (383 mg, 1.37 mmol) in N,N-dimethylacetamide (30 mL) at room temperature under nitrogen for 20 min. Add (4-bromo-2-fluoro-phenyl)-methanol (4.00 g, 19.5 mmol), 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (5.20 g, 20.5 mmol) and potassium acetate (2.87 g, 29.3 mmol) and stir at 80° C. for 18 hr. Cool reaction to room temperature, dilute with water (100 mL), then extract with ethyl acetate (2×50 mL) dry over magnesium sulfate, filter and concentrate. Purify (silica gel chromatography, eluting with 0:100 to 20:80 ethyl acetate:isohexane), to give [2-fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanol as a yellow solid (4.079 g, 83%). MS (ES): m/z=275 [M+Na]+.

reactant | (4-bromo-2-fluoro-phenyl)-methanol | 19.5 mmol, 4.00 g | BrC1=CC(=C(C=C1)CO)F | C7H6BrFO
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 20.5 mmol, 5.20 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 29.3 mmol, 2.87 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylacetamide | 30 mL | CN(C(C)=O)C | C4H9NO
solvent | water | 100 mL | O | H2O
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.585 mmol, 336 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | tricyclohexylphosphine | 1.37 mmol, 383 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
product | [2-fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanol | 4.079 g, 83% | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)CO | C13H18BFO3
